US08455488B2
Synthesis of 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-benzylurea (Compound II-116)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-benzylureidooxy)acetic acid (Compound VI-1) 66 mg (0.29 mmol) was coupled with (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide (Compound IV-6) 100 mg (0.20 mmol) to obtain the title compound.

reactant | 2-(3-benzylureidooxy)acetic acid | 0.29 mmol, 66 mg | C(C1=CC=CC=C1)NC(NOCC(=O)O)=O | C10H12N2O4
reactant | (S)-2-amino-N-(benzo[b]thiophen-3-ylmethyl)-3-(4-tert-butoxyphenyl)-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 0.20 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2)CC2=CC=C(C=C2)OC(C)(C)C | C29H40N2O4S
product | 1-(2-((S)-1-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(4-tert-butoxyphenyl)-1-oxopropan-2-ylamino)-2-oxoethoxy)-3-benzylurea | S1C2=C(C(=C1)CN(C([C@H](CC1=CC=C(C=C1)OC(C)(C)C)NC(CONC(=O)NCC1=CC=CC=C1)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C39H50N4O7S
